data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3702,4228,[CH3:9][C:10](=[O:11])[N:12]=[O+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:13][N:12]1[C:10]([CH3:9])=[O:11],water,298.15,11.419895326309076,-37.278077239632566
4678,5334,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C-:16]([CH3:17])[N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:16]([CH3:15])([CH3:17])[N:18]=[C:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,3.1501595693272804,-29.692441304805303
3121,3513,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[O+:12][C-:13]([CH3:14])[CH3:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([CH3:14])([CH3:15])[O:12][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:10]#[N:11],water,298.15,13.97805818478991,-41.02446431993411
5100,5789,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22]([CH3:23])=[O:24])[C:25](=[O:26])[O:27][CH3:28]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,8.884488147702553,-27.559347857835565
3351,3802,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([CH3:14])[o:15][c:16]1=[O:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]2([CH3:14])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:16](=[O:17])[O:15]2,water,298.15,28.44478030631432,5.709656009095358
4551,5191,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,10.917350836038246,-37.51403835638274
2959,3306,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[N+:6][N-:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:6]=[N:5]1,water,298.15,29.297824108352607,-10.867146977108932
3827,4381,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[N+:10]([CH3:11])[C-:12]([C:13](=[O:14])[NH:15][CH3:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH2:1]1[CH2:2][C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17](=[O:18])[NH:19][CH3:20])[N:10]([CH3:11])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,20.169520806359547,-38.66580622458796
369,400,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]1([C:12]([O:11][CH3:10])=[O:13])[O:15][N:16]3[O:17][C:18]1=[O:19],water,298.15,13.316386839301847,-35.9854453753551
3925,4489,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:17]([C:18]([CH3:19])=[O:20])[NH:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,22.42975242910477,-11.764588680053926
3866,4424,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[CH-:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:16]([C:17](=[O:18])[O:19][CH3:20])[N:14]([CH3:15])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,27.105220640949124,-18.600476599029765
1135,1234,[CH3:10][C:11](=[O:12])[C-:13]([O+:14]=[C:15]([CH3:16])[C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:15]([CH3:16])([C:17]#[N:18])[O:14][C:13]2([C:11]([CH3:10])=[O:12])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,14.18924672995224,-39.146428120621735
4675,5330,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:21]([C:22]([CH3:23])=[O:24])[N:19]([CH3:20])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,16.082695287212378,-23.786384755442064
